US07977358B2
(3-Diethylamino-pyrrolidin-1-yl)-[4-methyl-5-(3-phenylethynyl-phenyl)-1H-pyrazol-3-yl]-methanone
In analogy to the procedure described in Example 31F], iodobenzene and (3-diethylamino-pyrrolidin-1-yl)-[5-(3-ethynyl-phenyl)-4-methyl-1H-pyrazol-3-yl]-methanone (Example 31E]) gave the title compound in 70% yield light yellow semisolid. MS: 427.3 (MH+).

reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
reactant | (3-diethylamino-pyrrolidin-1-yl)-[5-(3-ethynyl-phenyl)-4-methyl-1H-pyrazol-3-yl]-methanone | C(C)N(C1CN(CC1)C(=O)C1=NNC(=C1C)C1=CC(=CC=C1)C#C)CC | C21H26N4O
product | (3-Diethylamino-pyrrolidin-1-yl)-[4-methyl-5-(3-phenylethynyl-phenyl)-1H-pyrazol-3-yl]-methanone | 70% yield | C(C)N(C1CN(CC1)C(=O)C1=NNC(=C1C)C1=CC(=CC=C1)C#CC1=CC=CC=C1)CC | C27H30N4O
